US06329380B1
2-[1-(Piperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine
The 2-[1-(1-benzyloxycarbonylpiperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine (900 mg, 1.97 mmol) was dissolved in CH2Cl2 (25 mL), and the mixture was cooled down to 0° C. To this was added 30% HBr in acetic acid (5 mL) slowly and continued stirring at 0° C. for 15 min The bath was removed, and the reaction mixture was stirred at room temperature for 45 min and then was diluted with H2O (25 mL). The reaction mixture was extracted with CH2Cl2 (2×20 mL; discarded), then the aqueous layer was made neutral with 5N NaOH and extracted with EtOAc (3×25 mL; discarded). The aqueous layer was made strongly basic (>pH 12) with SN NaOH, and was extracted with EtOAc (4×30 mL). The combined extracts were washed with brine and dried over Na2SO4. After removal of solvent under reduced pressure, 543 mg of the title compound was obtained which was used without purification. Partial 1H NMR (500 MHz, CDCl3): δ 8.61 (s, 1H); 8.36 (br s, 1H); 8.16 (d, J=8 Hz, 1H); 7.85 (d, J=8.5 Hz, 1H); 7.38 (m, 2H); 6.75 (d, J=5.4 Hz, 1H); 5.14 (s, 2H); 4.1 (m, 1H); 3.18 (d, J=12 Hz, 1H); 3.02 (d, J=12 Hz, 1H); 1.23 (d, J=6.6 Hz, 3H).

reactant | 2-[1-(1-benzyloxycarbonylpiperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 1.97 mmol, 900 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C26H28N6O2
reactant | HBr | Br | BrH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(Piperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 543 mg | N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C18H22N6
